US07723336B2
1-(4-fluorophenyl)-N-(4-(imidazo[1,2-b]pyridazin-8-ylamino)phenyl)-2-oxo-3-piperidinecarboxamide
To a suspension of N-(4-((6-chloroimidazo[1,2-b]pyridazin-8-yl)amino)phenyl)-1-(4-fluorophenyl)-2-oxo-1,2-dihydro-3-pyridinecarboxamide TFA salt (0.013 g, 0.027 mmol) from Example XXI(i) and EtOH (4 mL) in a 500 ml PARR bottle was added 10% Pd/C (20 mg) and 2 drops of triethylamine. The PARR bottle was then charged with Hydrogen gas at 55 psi and allow to shake at room temperature for 12 hours. The reaction mixture was then filtered and the filtrate concentrated in vacuo. The residue was purified by preparative HPLC to furnish 0.008 g of the title compound as a TFA salt. LC/MS, m/e 445 (M+1). HPLC Rt, 1.81 mm. YMC ODSC18 column (4.6×50 mm). 0%-100% B. Solvent B: (90% MeOH, 10% H2O, 0.1% TFA). Solvent A: (10% MeOH, 90% H2O, 0.1% TFA). Gradient, start % B=0, final % B=100, gradient time 4 mm, hold at 100% B 1 mm, flow rate 4 mL/min.

reactant | N-(4-((6-chloroimidazo[1,2-b]pyridazin-8-yl)amino)phenyl)-1-(4-fluorophenyl)-2-oxo-1,2-dihydro-3-pyridinecarboxamide TFA salt | 0.027 mmol, 0.013 g | OC(=O)C(F)(F)F.ClC=1C=C(C=2N(N1)C=CN2)NC2=CC=C(C=C2)NC(=O)C=2C(N(C=CC2)C2=CC=C(C=C2)F)=O
reactant | Hydrogen | [H][H] | H2
catalyst | triethylamine | 2 drops | C(C)N(CC)CC | C6H15N
catalyst | Pd/C | 20 mg | [Pd] | Pd
solvent | EtOH | 4 mL | CCO | C2H6O
product | 1-(4-fluorophenyl)-N-(4-(imidazo[1,2-b]pyridazin-8-ylamino)phenyl)-2-oxo-3-piperidinecarboxamide | 0.008 g | FC1=CC=C(C=C1)N1C(C(CCC1)C(=O)NC1=CC=C(C=C1)NC=1C=2N(N=CC1)C=CN2)=O | C24H21FN6O2
